US08609731B2
N-((S)-6-Bromo-1,2,3,4-tetrahydronaphthalen-2-yl)-4-[(S)-1-(tetrahydrofuran-2-yl)methoxy]benzamide
According to method F, N-((S)-6-bromo-1,2,3,4-tetrahydronaphthalen-2-yl)-4-hydroxybenzamide was reacted with methanesulfonic acid (S)-1-(tetrahydrofuran-2-yl)methyl ester. The product was thus obtained with the molecular weight of 430.35 (C22H24BrNO3); MS (ESI): 430 (M+H+).

reactant | N-((S)-6-bromo-1,2,3,4-tetrahydronaphthalen-2-yl)-4-hydroxybenzamide | BrC=1C=C2CC[C@@H](CC2=CC1)NC(C1=CC=C(C=C1)O)=O | C17H16BrNO2
reactant | methanesulfonic acid (S)-1-(tetrahydrofuran-2-yl)methyl ester | O1[C@@H](CCC1)COS(=O)(=O)C | C6H12O4S
product | N-((S)-6-Bromo-1,2,3,4-tetrahydronaphthalen-2-yl)-4-[(S)-1-(tetrahydrofuran-2-yl)methoxy]benzamide | BrC=1C=C2CC[C@@H](CC2=CC1)NC(C1=CC=C(C=C1)OC[C@H]1OCCC1)=O | C22H24BrNO3
